US05872118
A mixture of ethyl 3-(4-fluorophenyl)hexenoate (58.12 g, 0.246 mol) and 10% palladium on carbon (1.1 g, Aldrich) in 95% ethanol was shaken in a Parr hydrogenator under a pressure of 2-4 atm of hydrogen for 0.75 hr. The mixture was filtered and concentrated by spin evaporation in vacuo to give 58.4 g (99.6%) of ethyl 3-(4-fluorophenyl)hexanoate as a clear liquid, NMR (DMSO-d6): d 7.27-7.20 (m, 2H), 7.12-7.04 (m, 2H), 3.91 (q, 2H, J=7.2 Hz), 2.99 (m, 1H), 2.66-2.59 (m, 1H), 2.52-2.44 (m, 1H, partially obscured by DMSO), 1.59-1.46 (m, 2H), 1.13-1.07 (m, 2H), 1.02 (t, 3H, J=7.2Hz), 0.78 (t, 3H, J=7.5 Hz).

reactant | ethyl 3-(4-fluorophenyl)hexenoate | 0.246 mol, 58.12 g | FC1=CC=C(C=C1)C(=CC(=O)OCC)CCC | C14H17FO2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 1.1 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | ethyl 3-(4-fluorophenyl)hexanoate | 58.4 g, 99.6% | FC1=CC=C(C=C1)C(CC(=O)OCC)CCC | C14H19FO2
